US04628058
13.5 g (0.04 mole) of N-(5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl)-N-butylcarbamyl chloride were added dropwise to a solution of 6.8 g (0.1 mole) of imidazole in 150 ml of dry tetrahydrofuran at 20° C. The mixture was stirred for 6 hours at 70° C., after which it was cooled to 20° C., and the resulting precipitate was filtered off under suction. The filtrate was evaporated down under reduced pressure, the residue was dissolved in 200 ml of methylene chloride, the solution was washed with three times 80 ml of water, dried and evaporated down, the resin which remained was left to stand for 3 hours at 0° C. with 30 ml of diethyl ether, and the crystals formed were filtered off under suction. 12.8 g of 1-(N-(5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl)-N-butylcarbamyl)imidazole of melting point 98°-100° C. were obtained (compound No. 1).

reactant | N-(5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl)-N-butylcarbamyl chloride | 0.04 mole, 13.5 g | ClC=1C=C(C2=C(CC(O2)CN(C(=O)Cl)CCCC)C1)Cl | C14H16Cl3NO2
reactant | imidazole | 0.1 mole, 6.8 g | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(N-(5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl)-N-butylcarbamyl)imidazole | 12.8 g | ClC=1C=C(C2=C(CC(O2)CN(C(=O)N2C=NC=C2)CCCC)C1)Cl | C17H19Cl2N3O2
